US06566535B1
Ethyl 4-(2-chloro-6-formylphenylthio)butyrate was synthesized from 2,3-dichlorobenzaldehyde and ethyl 4-mercaptobutyrate in the same manner as Example 2. After column chromatography, vacuum concentration yielded ethyl 4-(2-chloro-6-formylpehylthio)butyrate (Yield 70%) as a yellow oily matter.

reactant | 2,3-dichlorobenzaldehyde | ClC1=C(C=O)C=CC=C1Cl | C7H4Cl2O
reactant | ethyl 4-mercaptobutyrate | SCCCC(=O)OCC | C6H12O2S
product | Ethyl 4-(2-chloro-6-formylphenylthio)butyrate | ClC1=C(C(=CC=C1)C=O)SCCCC(=O)OCC | C13H15ClO3S
